US07851473B2
(3) 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-pyrimidin-5-ylpiperazine-1-carboxamide
A solution of 2,2,2-trichloroethyl pyrimidin-5-ylcarbamate (100 mg, 0.369 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (87.4 mg, 0.369 mmol), diisopropylethylamine (0.0643 ml, 0.369 mmol) and dimethylsulfoxide (2 ml) was stirred at 70° C. for 2.5 hours, the reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) to obtain the desired product as a solid. This was recrystallized from a mixed solvent of tetrahydrofuran, ethyl acetate and hexane to obtain the desired product (26.3 mg, 19.5%) as a solid.

reactant | 2,2,2-trichloroethyl pyrimidin-5-ylcarbamate | 0.369 mmol, 100 mg | N1=CN=CC(=C1)NC(OCC(Cl)(Cl)Cl)=O | C7H6Cl3N3O2
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.369 mmol, 87.4 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 0.369 mmol, 0.0643 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-pyrimidin-5-ylpiperazine-1-carboxamide | C1(=CC=CC=C1)C1=NSC(=N1)N1CCN(CC1)C(=O)NC=1C=NC=NC1 | C17H17N7OS
